US09120778B2
4-(6,7-Dimethoxy-quinazolin-4-yloxy)-phenylamine 4-Chloro-6,7-dimethoxy-quinazoline (0.500 g, 2.22 mmol), 4-aminophenol (0.291 g, 2.67 mmol), 2-butanone (4.01 mL, 44.5 mmol), 2N sodium hydroxide solution (1.00 mL, 0.213 mmol), and tetra-N-butylammonium bromide (0.308 g, 0.957 mmol) were combined and heated to reflux (80° C.) for 15 min. The reaction was cooled to rt. DCM was added and washed with calcium carbonate solution and brine, then dried over sodium sulfate and concentrated to yield a crude product. The solid was triturated with diethyl ether and hexanes to yield 4-(6,7-dimethoxyquinazolin-4-yloxy)-phenylamine (0.52 g, 78%). LCMS m/z=298 (M+1).

reactant | 4-(6,7-Dimethoxy-quinazolin-4-yloxy)-phenylamine 4-Chloro-6,7-dimethoxy-quinazoline | 2.22 mmol, 0.500 g | ClC1=NC=NC2=CC(=C(C=C12)OC)OC.COC=1C=C2C(=NC=NC2=CC1OC)OC1=CC=C(C=C1)N
reactant | 4-aminophenol | 2.67 mmol, 0.291 g | NC1=CC=C(C=C1)O | C6H7NO
reactant | 2-butanone | 44.5 mmol, 4.01 mL | CC(CC)=O | C4H8O
reactant | sodium hydroxide | 0.213 mmol, 2N, 1.00 mL | [OH-].[Na+]
catalyst | tetra-N-butylammonium bromide | 0.957 mmol, 0.308 g | CCCC[N+](CCCC)(CCCC)CCCC.[Br-]
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 4-(6,7-dimethoxyquinazolin-4-yloxy)-phenylamine | 0.52 g, 78% | COC=1C=C2C(=NC=NC2=CC1OC)OC1=CC=C(C=C1)N | C16H15N3O3
